US05994396
Synthesis of 5-[2-(N-n-Butylcarbamoyl)eth-1-enyl]- furan-2-sulfonic Acid Sodium Salt
To a suspension of (N-n-butylcarbamoyl)methyltriphenylphosphonium chloride (16.63 g, 40.38 mmol), from Example B above, in tetrahydrofuran (200 mL) at 0-5° C. was added a solution of n-butyllithium in hexanes (18 mL, 2.5 M, 45 mmol). Upon addition of the n-butyllithium solution, the solution became homogeneous and the reaction mixture was stirred for 10 min at 5° C. 5-Formylfuran-2-sulfonic acid sodium salt (8.0 g, 40.38 mmol) was then added in one portion and the reaction mixture was stirred for 45 min at 0-5° C. and then at room temperature for 1.75 h. The mixture was filtered and the solid obtained was stirred with THF (100 mL) for several hours and then filtered. The solid was mixed with ethanol (200 mL) and filtered to remove the undissolved solid. Removal of solvent provided 8.24 g (69.1% yield) of the title compound as a slightly yellowish powder, m.p.=318.1° C. (dec) (Rf =0.55 on a silica gel plate using 2:1 EtOAc/EtOH). This product consisted of 70% trans-isomer and 30% cis-isomer.

reactant | (N-n-butylcarbamoyl)methyltriphenylphosphonium chloride | 40.38 mmol, 16.63 g | [Cl-].C(CCC)NC(=O)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-Formylfuran-2-sulfonic acid sodium salt | 40.38 mmol, 8.0 g | [Na+].C(=O)C1=CC=C(O1)S(=O)(=O)[O-]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-[2-(N-n-Butylcarbamoyl)eth-1-enyl]- furan-2-sulfonic Acid Sodium Salt | 8.24 g, 69.1% yield | [Na+].C(CCC)NC(=O)C=CC1=CC=C(O1)S(=O)(=O)[O-] | InChI=1S/C11H15NO5S.Na/c1-2-3-8-12-10(13)6-4-9-5-7-11(17-9)18(14,15)16;/h4-7H,2-3,8H2,1H3,(H,12,13)(H,14,15,16);/q;+1/p-1
